US06172057B2
2-[(2-Hydroxy-ethyl)-(3-methoxy-benzyl)-amino]-ethanol was prepared according to the general method as outlined in example 83. Starting from diethanolamine (3.1 g, 29.5 mmol) and 3-methoxybenzyl chloride (5 g, 31.9 mmol). Yield 9.28 g, (99%); yellow oil; MS: 226 (M+H).

reactant | diethanolamine | 29.5 mmol, 3.1 g | N(CCO)CCO | C4H11NO2
reactant | 3-methoxybenzyl chloride | 31.9 mmol, 5 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
product | 2-[(2-Hydroxy-ethyl)-(3-methoxy-benzyl)-amino]-ethanol | OCCN(CCO)CC1=CC(=CC=C1)OC | C12H19NO3
